US08431695B2
Preparation of N-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide
Using a procedure similar to that of Example 5 with 7-(3-amino-phenyl)-5-(2-benzyl-2H-Indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine and methanesulfonyl chloride as starting materials, 19 mg (1%) of the desired product was isolated. 1H NMR (300 MHz, DMSO-d6) δ 9.90 (s, 1 H), 8.60 (s, 1 H), 8.05 (d, 2 H), 8.0 (s, 1 H), 7.90 (d, 1 H), 7.70 (s, 1 H), 7.60-7.40 (m, 7 H), 7.25 (d, 1 H), 7.20 (s, 1 H), 5.70 (s, 2 H), 3.10 (s, 3H); ES-MS m/z 510.27 [M+H]+, HPLC RT (min) 2.85.

reactant | 7-(3-amino-phenyl)-5-(2-benzyl-2H-Indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | NC=1C=C(C=CC1)C1=CC(=C2C(=NC=NN21)N)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C26H21N7
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N-{3-[4-Amino-5-(2-benzyl-2H-indazol-6-yl)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-methanesulfonamide | 19 mg, 1% | NC1=NC=NN2C1=C(C=C2C=2C=C(C=CC2)NS(=O)(=O)C)C=2C=CC1=CN(N=C1C2)CC2=CC=CC=C2 | C27H23N7O2S
